US09062048B2
Step A: 2-methoxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol
8-(oxiran-2-yl)-1,4-dioxaspiro[4.5]decane (202 mg, 1.10 mmol), prepared in the previous step, in DCM (20 mL) was dissolved in sodium methoxide solution (10 mL, 5 mmol, 0.5 M). The mixture was stirred, heating to reflux under argon overnight and then cooled to ambient temperature and concentrated in vacuo. After addition of saturated ammonium chloride solution and extraction with ethyl acetate, the organic layers were concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 0-50% ether) to afford the product.

reactant | 8-(oxiran-2-yl)-1,4-dioxaspiro[4.5]decane | 1.10 mmol, 202 mg | O1C(C1)C1CCC2(OCCO2)CC1 | C10H16O3
reactant | sodium methoxide | 5 mmol, 0.5 M, 10 mL | C[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol | COCC(O)C1CCC2(OCCO2)CC1 | C11H20O4
